data/oMe_Silver.jsonl
{"reaction_id": "NR-239_1-C1CCCCC1_2-C1CCCCC1_3-c1occc1_4-c1ccccc1","level": "medium","name": "Stetter Reaction","reactants_smiles": ["C1CCCCC1C(=O)[H]","C(c1occc1)=C(c1ccccc1)C(=O)C1CCCCC1","[C-]#N"],"products_smiles": ["C1CCCCC1C(=O)C(c1ccccc1)C(c1occc1)C(=O)C1CCCCC1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C([O-])C#N","step_weight": 0,"rationale": "Cyanide attacks the electrophilic carbonyl carbon of the aldehyde due to its strong nucleophilicity and the polarization of the C=O bond, forming a stabilized cyanohydrin anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1[C-](O)C#N","step_weight": 0,"rationale": "Proton transfer occurs to generate the Breslow-type intermediate, driven by stabilization through resonance between the alkoxide and adjacent carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C(O)(C#N)C(c1occc1)C(c1ccccc1)=C([O-])C1CCCCC1","step_weight": 0,"rationale": "The nucleophilic Breslow intermediate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C([O-])(C#N)C(c1occc1)C(c1ccccc1)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Proton transfer converts the enolate into a neutral alcohol, driven by the high basicity of the enolate and the availability of proton donors in the medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1C(=O)C(c1ccccc1)C(c1occc1)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Elimination of cyanide regenerates the catalyst, favored by the formation of a conjugated carbonyl system and the good leaving group ability of cyanide under these conditions."}],"description": "In the Stetter reaction, a nucleophilic catalyst such as cyanide activates the aldehyde to form a Breslow-type intermediate, which then performs a Michael addition to an α,β-unsaturated carbonyl. Subsequent proton transfers and catalyst elimination yield the thermodynamically stable 1,4-dicarbonyl product."}
{"reaction_id": "NG-005_1-c1ccsc1_2-c1ccc(F)cc1_3-c1ccc(OC)cc1","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccsc1)C=O","C(c1ccc(F)cc1)(c1ccc(OC)cc1)=O"],"products_smiles": ["C(c1ccc(F)cc1)(c1ccc(OC)cc1)=C(C=O)c1ccsc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)=C(O)c1ccc(F)cc1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccc(OC)cc1)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccc(OC)cc1)(O)C(C=[OH+])c1ccsc1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccc(OC)cc1)(O)C(C=O)c1ccsc1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccc(OC)cc1)([OH2+])C(C=O)c1ccsc1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(F)cc1)(c1ccc(OC)cc1)=C(C=O)c1ccsc1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
